US08207164B2
f) N-(2-(5-bromo-2-fluorophenyl)-4-(tert-butyldimethylsilyloxy)-3,3-difluorobutan-2-yl)-2-methylpropane-2-sulfinamide
To a solution of N-(1-(5-bromo-2-fluorophenyl)-3-(tert-butyldimethylsilyloxy)-2,2-difluoro-propylidene)-2-methylpropane-2-sulfinamide (12 g, 24.04 mmol) in diethyl ether (120 mL) was added CH3MgBr (3M in Diethyl ether) (41 mL, 120 mmol) at −25° C. The reaction mixture was brought to 0° C. and maintained for 30 min. Reaction mixture was again cooled to −35° C. and quenched by drop wise addition of saturated ammonium chloride solution. Organic layer was separated and washed with brine and dried over anhydrous sodium sulphate. Crude compound was purified by column chromatography on silica gel with 8% ethyl acetate in Hexane to furnish title compound as a colorless liquid. Yield=8.8 g (71%). TLC (20% ethyl acetate in Hexane): Rf=0.33),

reactant | N-(1-(5-bromo-2-fluorophenyl)-3-(tert-butyldimethylsilyloxy)-2,2-difluoro-propylidene)-2-methylpropane-2-sulfinamide | 24.04 mmol, 12 g | BrC=1C=CC(=C(C1)C(C(CO[Si](C)(C)C(C)(C)C)(F)F)=NS(=O)C(C)(C)C)F | C19H29BrF3NO2SSi
reactant | CH3MgBr | 120 mmol, 3M, 41 mL | C[Mg+].[Br-]
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
product | N-(2-(5-bromo-2-fluorophenyl)-4-(tert-butyldimethylsilyloxy)-3,3-difluorobutan-2-yl)-2-methylpropane-2-sulfinamide | BrC=1C=CC(=C(C1)C(C)(C(CO[Si](C)(C)C(C)(C)C)(F)F)NS(=O)C(C)(C)C)F | C20H33BrF3NO2SSi
